US08067426B2
Intermediate 46: 8-Bromo-2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
N-Bromosuccinimide (1.504 g, 8.45 mmol) was added portionwise to a stirred solution of 2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2.453 g, 7.68 mmol) in chloroform (40 ml) under at atmosphere of nitrogen cooled in an ice-bath. After 3 hours LCMS indicated the reaction to be 80% complete and more N-bromosuccinimide (0.68 g) was added and stirring continued for a further 2 hours. Water (40 ml) was added and the phases separated using a hydrophobic frit. The organic phase was evaporated and the residue dissolved in dichloromethane and purified on an aminopropyl (NH2) cartridge (100 g) using a 0-100% ethyl acetate in cyclohexane gradient followed by a 0-20% methanol (+1% triethylamine) gradient over 60 mins. The appropriate fractions were combined and evaporated in vacuo to the title compound as a white foam (2.38 g).

reactant | N-Bromosuccinimide | 8.45 mmol, 1.504 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 7.68 mmol, 2.453 g | C[C@@H](CCCC)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C16H25N5O2
reactant | N-bromosuccinimide | 0.68 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 40 ml | O | H2O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-{[(1S)-1-methylpentyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | BrC=1N(C2=NC(=NC(=C2N1)N)O[C@H](CCCC)C)C1OCCCC1 | C16H24BrN5O2
